US08669254B2
2-Chloro-4-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyrimidine
To a solution of 0.948 ml cyclopropanemethanol in 13 ml dimethylformamide was added 0.468 g sodium hydride 55% in mineral oil and the reaction mixture was stirred at room temperature for 15 min. The resulting solution was added drop wise to a solution of 2.586 g 2-chloro-4-(4-chloro-phenyl)-5-fluoro-pyrimidine at 0° C. and the mixture was stirred at 0° C. for 30 min. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel using a gradient of heptane:ethyl acetate=10:90 to 80:20 to yield 2.50 g of the title compound as white solid. MS (EI): 295.2 (M+H).

reactant | cyclopropanemethanol | 0.948 ml | C1(CC1)CO | C4H8O
reactant | sodium hydride | 0.468 g | [H-].[Na+]
reactant | 2-chloro-4-(4-chloro-phenyl)-5-fluoro-pyrimidine | 2.586 g | ClC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)F | C10H5Cl2FN2
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-4-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyrimidine | 2.50 g | ClC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)OCC1CC1 | C14H12Cl2N2O
